US07348340B2
J2. 2-(3-Dimethylaminophenyl)-N4,N4-dimethyl-quinoline-4,6-diamine
The title compound was prepared from N-[2-(3-chlorophenyl)-6-nitro-4-quinolinyl]-N,N-dimethylamine by the procedure of step D2 of Method D using dimethylamine.

reactant | N-[2-(3-chlorophenyl)-6-nitro-4-quinolinyl]-N,N-dimethylamine | ClC=1C=C(C=CC1)C1=NC2=CC=C(C=C2C(=C1)N(C)C)[N+](=O)[O-] | C17H14ClN3O2
reactant | dimethylamine | CNC | C2H7N
product | 2-(3-Dimethylaminophenyl)-N4,N4-dimethyl-quinoline-4,6-diamine | CN(C=1C=C(C=CC1)C1=NC2=CC=C(C=C2C(=C1)N(C)C)N)C | C19H22N4
